US07893062B2
Titanium (IV) chloride (179.4 g, 0.94 mol) was added drop wise to a suspension of zinc powder (123.6 g, 1.89 mol) in THF (1200 ml). This solution was heated at 68° C. for one hour, then cooled to RT before rac-(3R,4S)-1-benzyl-3-(4-fluoro-phenyl)-4-nitro-pyrrolidine (94 g, 0.31 mol) in THF (400 ml) was added. The reaction mixture was then stirred at reflux over night. The reaction was cooled to RT, diluted with 3000 ml of Et2O, washed with an aqueous solution of NaHCO3 and the organic phases were dried over Na2SO4. Flash chromatography (SiO2, CH2Cl2/MeOH, 9:1) yielded 18.9 g (22%) of rac-(3S,4R)-1-benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-ylamine as a brown oil.

reactant | rac-(3R,4S)-1-benzyl-3-(4-fluoro-phenyl)-4-nitro-pyrrolidine | 0.31 mol, 94 g | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C17H17FN2O2
solvent | THF | 1200 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | Et2O | 3000 ml | CCOCC | C4H10O
catalyst | Titanium (IV) chloride | 0.94 mol, 179.4 g | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 1.89 mol, 123.6 g | [Zn] | Zn
product | rac-(3S,4R)-1-benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-ylamine | 18.9 g, 22% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=C(C=C1)F)N | C17H19FN2
